US05457099
Preparation of 4-[2-[4-(1H-indol-3-yl)-1-piperidinyl]ethyl]-6-nitro-2(1H)-quinolinone (III-19)
A suspension of 4-(2-bromoethyl)-6-nitro-2(1H)-quinolinone (II-9) (891 mg, 3.0 mmol), 3-(4-piperidinyl)-1H-indol (600 mg, 3.0 mmol) and sodium hydrogen carbonate (378 mg, 4.5 mmol) in dimethylformamide (9 ml) was stirred at 50 ° C. for 30 hours. Then the reaction mixture was poured into water. The precipitated solid was filtered, washed with water, dried and recrystallized from a mixed solvent consisting of methanol, tetrahydrofuran and water to give the desired compound (III-19) (640 mg, yield 51.2%) as pale yellow crystals, mp 251°-253 ° C. (recrystallized from a mixture of methanol, tetrahydrofuran and water).

reactant | 4-(2-bromoethyl)-6-nitro-2(1H)-quinolinone | BrCCC1=CC(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C11H9BrN2O3
reactant | 3-(4-piperidinyl)-1H-indol | 3.0 mmol, 600 mg | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | sodium hydrogen carbonate | 4.5 mmol, 378 mg | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | 4-[2-[4-(1H-indol-3-yl)-1-piperidinyl]ethyl]-6-nitro-2(1H)-quinolinone | 640 mg, yield 51.2% | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCC1=CC(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C24H24N4O3
